US05559113
N-Cyano-N'-[3-(1H-imidazol-4-yl)propyl]-N"-cyclohexylmethylguanidine
5 mmol of diphenyl N-cyanocarbonimidate are stirred with 5 mmol of cyclohexylmethylamine in 20 ml of acetonitrile for 2 h at room temperature. 5 mmol of 3-(1H-imidazol-4-yl)propanamine are then added and the mixture is brought to reflux for 8 h. The solution is concentrated under vacuum until dryness and the residue taken up in 5% acetic acid and washed with diethyl ether. After having been basified, the solution is extracted several times with dichloromethane. The combined and concentrated organic phases are purified by chromatography. The title compound is obtained, after concentration, in the form of a dry foam from diethyl ether.

reactant | diphenyl N-cyanocarbonimidate | 5 mmol | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | cyclohexylmethylamine | 5 mmol | C1(CCCCC1)CN | C7H15N
reactant | 3-(1H-imidazol-4-yl)propanamine | 5 mmol | N1C=NC(=C1)CCCN | C6H11N3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-Cyano-N'-[3-(1H-imidazol-4-yl)propyl]-N"-cyclohexylmethylguanidine | C(#N)NC(=NCC1CCCCC1)NCCCC=1N=CNC1 | C15H24N6
